US08193203B2
N2-(3-(Dimethylamino)propyl)-N4-(piperidin-4-yl)quinazoline-2,4-diamine (Compound 129).
tert-Butyl 4-(2-(3-(dimethylamino)propylamino)quinazolin-4-ylamino)piperidine-1-carboxylate (3.3 g, 7.71 mmol) in CH2Cl2 (20 ml) at 0° C. was added CF3COOH (4 ml, 53.9 mmol) and the reaction was stirred at room temperature overnight. The reaction mixture was then neutralized with 7 N NH3-MeOH. The resulting white solid was filtered away. The filtrate was concentrated and purified by silica gel column chromatography using 10% NH3 ca. 7 N MeOH in CH2Cl2 and 90% CH2Cl2 solution as eluent to obtain the title compound as a pure white solid.

reactant | tert-Butyl 4-(2-(3-(dimethylamino)propylamino)quinazolin-4-ylamino)piperidine-1-carboxylate | 7.71 mmol, 3.3 g | CN(CCCNC1=NC2=CC=CC=C2C(=N1)NC1CCN(CC1)C(=O)OC(C)(C)C)C | C23H36N6O2
reactant | CF3COOH | 53.9 mmol, 4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NH3 MeOH | 7 N | N.CO
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | N2-(3-(Dimethylamino)propyl)-N4-(piperidin-4-yl)quinazoline-2,4-diamine | CN(CCCNC1=NC2=CC=CC=C2C(=N1)NC1CCNCC1)C | C18H28N6
